US05514680
6-Chlorosulfonyl-1,4-dihydro-2,3-quinoxalinedione was prepared using an adaptation of the method of Keana et al. (J. Org. Chem. 48:3654 (1983)). To 1,4-dihydro-2,3-quinoxalinedione (1.0 g, 6.2 mmol) was added all at once 3.0 mL of chlorosulfonic acid. The mixture was stirred under N2 at 60° C. for 2 h, allowed to come to room temperature and the solution added slowly dropwise to 25 mL of crushed ice. The resulting solid was vacuum filtered and rinsed with ice/H2O. The white solid was further dried at 0.5 torr (25° C.) over CaSO4 to yield 1.1 g (68%). 1H NMR (d6 -DMSO) δ7.07 (d, J7-8 =8.1, 1H, H8), 7.29 (dd, J7-8 =8.1, J6-7 =1.0, 1H, H7), 7.40 (d, J5-7 =1.0, 1H, H5). EIMS m/z 262 (M+2, 15), 260 (M+, 40), 225 (35), 105 (43), 36 (100, bp). EIHRMS calc. for C8H5ClN2O4S 259.9687, found 259.9645.

reactant | 1,4-dihydro-2,3-quinoxalinedione | 6.2 mmol, 1.0 g | N1C(C(NC2=CC=CC=C12)=O)=O | C8H6N2O2
reactant | chlorosulfonic acid | 3.0 mL | ClS(=O)(=O)O | ClHO3S
product | 6-Chlorosulfonyl-1,4-dihydro-2,3-quinoxalinedione | ClS(=O)(=O)C=1C=C2NC(C(NC2=CC1)=O)=O | C8H5ClN2O4S
